US06384065B1
In 120 ml of methylene chloride was suspended 6.0 g of 4-(methoxycarbonyl)-benzoic acid, to which were added 3.5 ml of oxalyl chloride and 0.05 ml of N,N-dimethylformamide at 0-5° C. After a reaction at the same temperature as above for 3 hours, the mixture was stirred at ambient temperature for 24 hours. Then, a 90.7 g portion of the reaction mixture was taken out, and 6.9 ml of diethylamine was added thereto. The mixture was stirred at ambient temperature for 3 hours, and then poured into ice water. pH was adjusted to 1.0 with 6 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Thus, 5.89 g of methyl 4-[(diethylamino)carbonyl]-benzoate was obtained as a red oily product.

reactant | 4-(methoxycarbonyl)-benzoic acid | 6.0 g | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | oxalyl chloride | 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethylamine | 6.9 ml | C(C)NCC | C4H11N
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
product | methyl 4-[(diethylamino)carbonyl]-benzoate | 5.89 g | C(C)N(C(=O)C1=CC=C(C(=O)OC)C=C1)CC | C13H17NO3
